US06713483B1
a) (1R-trans)-N-[2-(4-Methoxyphenyl)cyclopropyl]acetamide
The sub-title compound was prepared according to the method of Example 4, step a) from (1R-trans)-2-(4-methoxyphenyl)cyclopropanamine, [R-(R*,R*)]-2,3-dihydroxybutanedioate (1:1) (prepared as described in W09905143) to give a white solid (655 mg).

reactant | (1R-trans)-2-(4-methoxyphenyl)cyclopropanamine | COC1=CC=C(C=C1)[C@H]1[C@@H](C1)N | C10H13NO
reactant | 2,3-dihydroxybutanedioate | OC(C(=O)[O-])C(C(=O)[O-])O
product | (1R-trans)-N-[2-(4-Methoxyphenyl)cyclopropyl]acetamide | COC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(C)=O | C12H15NO2
